US06943255B2
Under a nitrogen atmosphere, a mixture of 2-chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine (10.0 g, 41.0 mmol), sodium azide (2.67 g, 41.0 mmol), and anhydrous N,N-dimethylformamide (200 mL) was heated at 60° C. After 5 hours, the dark green solution was allowed to cool to room temperature, poured slowly into water (2 L), and stirred for fifteen minutes. A green precipitate formed, which was filtered and washed with water to yield 9.37 g of N-(2-methylpropyl)-5-methyl-8-nitrotetraazolo[1,5-α]pyridin-7-amine as a light green solid, m.p. 185-187° C.

reactant | 2-chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine | 41.0 mmol, 10.0 g | ClC1=NC(=CC(=C1[N+](=O)[O-])NCC(C)C)C | C10H14ClN3O2
reactant | sodium azide | 41.0 mmol, 2.67 g | [N-]=[N+]=[N-].[Na+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | 2 L | O | H2O
product | N-(2-methylpropyl)-5-methyl-8-nitrotetraazolo[1,5-α]pyridin-7-amine | 9.37 g | CC(CNC1=C(C=2N(C(=C1)C)N=NN2)[N+](=O)[O-])C | C10H14N6O2
